US05081287
Under a nitrogen atmosphere a solution of 2.7 grams (0.0171 mole) of 4-chlorobenzoic acid in 100 ml of acetonitrile was stirred, and 2.6 grams (0.0171 mole) of DBU was added. Upon completion of addition, the reaction mixture was stirred at ambient temperature for 15 minutes, and then 4.0 grams (0.017 mole) of 6-chloro-1,1-difluoro-1-hexene was added. The reaction mixture was then warmed to and stirred at reflux for 18 hours. The reaction mixture was cooled and was washed into a separatory funnel with diethyl ether. The reaction mixture was washed in turn with 50 ml of aqueous 10% hydrochloric acid, 50 ml of aqueous 10% sodium bicarbonate, and 50 ml of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate nd filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was subjected to column chromatography on silica gel. Elution was accomplished using 5% diethyl ether in hexane. The appropriate fractions were combined and concentrated under reduced pressure yielding 3.9 grams of 6,6-difluoro-5-hexenyl 4-chlorobenzoate. The nmr spectrum was consistent with the proposed structure.

reactant | 4-chlorobenzoic acid | 0.0171 mole, 2.7 grams | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | DBU | 0.0171 mole, 2.6 grams | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 6-chloro-1,1-difluoro-1-hexene | 0.017 mole, 4.0 grams | ClCCCCC=C(F)F | C6H9ClF2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 6,6-difluoro-5-hexenyl 4-chlorobenzoate | 3.9 grams | ClC1=CC=C(C(=O)OCCCCC=C(F)F)C=C1 | C13H13ClF2O2
